US09120835B2
(1) 4-(tert-Butyldiphenylsilyloxymethyl)-1-(2-trimethylsilylethoxy methyl)-1H-imidazole
1-(2-Trimethylsilylethoxymethyl)-1H-imidazole-4-methanol (100 g, WO 01/02145) was dissolved in dichloromethane (1 L), and triethylamine (hereinafter sometimes referred to as TEA) (122 mL), 4-(N,N-dimethylamino)pyridine (hereinafter sometimes referred to as DMAP) (5.35 g) and tert-butyldiphenylsilyl chloride (hereinafter sometimes referred to as TBDPSCl) (149 mL) were added under stirring. After stirring for a day, the reaction mixture was washed with water and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was purified by flash chromatography (ethyl acetate/hexane=25%→50%) using a silica gel column (trade name: Ultrapack E, manufactured by Yamazen Corporation) to give the title compound (146 g).

reactant | 1-(2-Trimethylsilylethoxymethyl)-1H-imidazole-4-methanol | 100 g | C[Si](CCOCN1C=NC(=C1)CO)(C)C | C10H20N2O2Si
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tert-butyldiphenylsilyl chloride | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-(tert-Butyldiphenylsilyloxymethyl)-1-(2-trimethylsilylethoxy methyl)-1H-imidazole | 146 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1N=CN(C1)COCC[Si](C)(C)C | C26H38N2O2Si2
